US04123550
To 350 ml. of solketal, 25 g. of sodium hydride are added at 5° C. After the completion of reaction, 100 g. of 2-bromothiophene, 20 g. of cupric oxide and 500 mg. of potassium iodide are added and the mixture heated at 160° for 44 hours. After cooling to room temperature, 200 ml. of water is slowly added to the reaction. The resulting aqueous mixture is extracted with hexane (3 times, 100 ml. each) and the hexane solution washed with water, dried over magnesium sulfate and evaporated to dryness (vacuum). Distillation of the oily residue gives 1,2-dihydroxy-3-(thien-2-yloxy)propane acetonide, 100 g. b.p. 96°-97° (1 mm).

reactant | solketal | CC1(OCC(O1)CO)C | C6H12O3
reactant | sodium hydride | [H-].[Na+]
reactant | 2-bromothiophene | BrC=1SC=CC1 | C4H3BrS
reactant | potassium iodide | [I-].[K+]
solvent | water | O | H2O
product | 1,2-dihydroxy-3-(thien-2-yloxy)propane acetonide | [CH2-]C(=O)C.OCC(COC=1SC=CC1)O | InChI=1S/C7H10O3S.C3H5O/c8-4-6(9)5-10-7-2-1-3-11-7;1-3(2)4/h1-3,6,8-9H,4-5H2;1H2,2H3/q;-1
